US05990114
Step c: N-[2-[4-(4-Indolyl)-1-piperazinyl]ethyl]-N-(2-pyridyl)cyclohexanecarboxamide HCL 1.25 H2O
A mixture of 0.94 g of N-formylmethyl-N-(2-pyridyl)cyclohexanecarboxamide, 0.69 g of 1-(4-indolyl)piperazine, 1.21 g of sodium triacetoxyborohydride, 0.44 ml of acetic acid and 30 ml of 1,2-dichloroethane was stirred at room temperature for 3 h. Afterwards, it was diluted with 20 ml of water and alkalinized to pH=10 with 20% Na2CO3. The aqueous layer was extracted twice with 1,2-dichloroethane and the combined organic layers were dried (sodium sulfate) and evaporated to dryness in vacuo affording a crude which was purified by flash chromatography (methylene chloride-methanol 98:2 to 95:5) affording 0.96 g of the title compound as a base. This was dissolved in 40 ml of methylene chloride and to the solution was added 3.8 N hydrogen chloride in diethyl ether. The precipitated title compound was filtered, yielding 0.66 g. M.p. 181-7° C.

reactant | N-formylmethyl-N-(2-pyridyl)cyclohexanecarboxamide | 0.94 g | C(=O)CN(C(=O)C1CCCCC1)C1=NC=CC=C1 | C14H18N2O2
reactant | 1-(4-indolyl)piperazine | 0.69 g | N1C=CC2=C(C=CC=C12)N1CCNCC1 | C12H15N3
reactant | sodium triacetoxyborohydride | 1.21 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
solvent | water | 20 ml | O | H2O
solvent | acetic acid | 0.44 ml | C(C)(=O)O | C2H4O2
product | N-[2-[4-(4-Indolyl)-1-piperazinyl]ethyl]-N-(2-pyridyl)cyclohexanecarboxamide HCL | 0.96 g | Cl.N1C=CC2=C(C=CC=C12)N1CCN(CC1)CCN(C(=O)C1CCCCC1)C1=NC=CC=C1 | InChI=1S/C26H33N5O.ClH/c32-26(21-7-2-1-3-8-21)31(25-11-4-5-13-28-25)20-17-29-15-18-30(19-16-29)24-10-6-9-23-22(24)12-14-27-23;/h4-6,9-14,21,27H,1-3,7-8,15-20H2;1H
